US05153192
Step A: N-(1,1-Dimethylethyl)-2-thiophenesulfonamide
To a solution of t-butylamine (8.35 g, 0.114 mol) in dry tetrahydrofuran (THF) (20 mL) cooled to 0° C. was added dropwise 2-thiophenesulfonyl chloride (5.0 g, 27.4 mmol). After the addition was completed, the reaction mixture was warmed to ambient temperature and stirred overnight. The mixture was extracted with ethyl acetate (3×80 mL) and the combined extracts were washed with water, dried over molecular sieves and concentrated. The residue was chromatographed on silica, eluting with 25% ethyl acetate-hexane, to yield 5.62 g (94%) of solid: mp 80°-82° C.

reactant | t-butylamine | 0.114 mol, 8.35 g | C(C)(C)(C)N | C4H11N
reactant | 2-thiophenesulfonyl chloride | 27.4 mmol, 5.0 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(1,1-Dimethylethyl)-2-thiophenesulfonamide | 5.62 g, 94% | CC(C)(C)NS(=O)(=O)C=1SC=CC1 | C8H13NO2S2
